US07524860B2
A mixture of 3-pyridine boronic acid pinacolate ester (500 mg, 2.44 mmol), Na2CO3 (649 mg, 6.12 mmol) and 5-chloro-7-pyridin-3-yl-[1,2,4]triazolo[1,5-a]pyridin-2-ylamine, which may be produced as in Example 1A, (500 mg, 2.04 mmol) in toluene (30 mL), ethanol (15 mL) and water (15 mL) was degassed by purging with N2 for 10 min. [PdCl2(dppf)].CH2Cl2 (56 mg, 0.082 mmol) was added and the mixture was brought to reflux for 36 h. The solvent was evaporated and the residue was extracted into hot EtOH/MeOH, filtered through Celite, and pre-adsorbed onto SiO2. Column chromatography (0-10% MeOH in CH2Cl2) afforded the product 5,7-di-pyridin-3-yl-[1,2,4]triazolo[1,5-a]pyridin-2-ylamine as a solid. MS m/z 289 (M+H+).

reactant | 3-pyridine boronic acid | 2.44 mmol, 500 mg | N1=CC(=CC=C1)B(O)O | C5H6BNO2
reactant | Na2CO3 | 6.12 mmol, 649 mg | C(=O)([O-])[O-].[Na+].[Na+]
reactant | 5-chloro-7-pyridin-3-yl-[1,2,4]triazolo[1,5-a]pyridin-2-ylamine | ClC1=CC(=CC=2N1N=C(N2)N)C=2C=NC=CC2 | C11H8ClN5
reactant | CH2Cl2 | 0.082 mmol, 56 mg | C(Cl)Cl | CH2Cl2
solvent | toluene | 30 mL | C1(=CC=CC=C1)C | C7H8
product | 5,7-di-pyridin-3-yl-[1,2,4]triazolo[1,5-a]pyridin-2-ylamine | N1=CC(=CC=C1)C1=CC(=CC=2N1N=C(N2)N)C=2C=NC=CC2 | C16H12N6
